US04091016
Preparation of N-Methyl-N(4-Methylphenylthiosulfenyl)Carbamoyl Fluoride (Method I)
Prepared by the procedure of Example II by reacting 4-methylphenylthiosulfenyl chloride with methylcarbamoyl fluoride. b.p. 92°-100° C/0.25 Torr ND22.5 1.5735.

reactant | 4-methylphenylthiosulfenyl chloride | CC1=CC=C(C=C1)SSCl | C7H7ClS2
reactant | methylcarbamoyl fluoride | CNC(=O)F | C2H4FNO
product | N-Methyl-N(4-Methylphenylthiosulfenyl)Carbamoyl Fluoride | CN(C(=O)F)SSC1=CC=C(C=C1)C | C9H10FNOS2
